US07109229B2
(a) 3-(6-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)-acetamide (0.466 g, 2.48 mmol) and (6-fluoro-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.543 g, 2.45 mmol) in DMF (40 mL) under N2 was added a 1.0 M solution of potassium-tert-butoxide in THF (8.6 mL, 8.6 mmol) dropwise over 5 minutes. The mixture was heated at 65–70° C. for 15 h. The mixture was cooled to room temperature, quenched with 1N HCl (excess) and poured into EtOAc. The organic layer was separated, washed with water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated onto flash SiO2. Flash chromatography (40% EtOAc/hex) gave the title compound as a bright orange solid which was dried under vacuum at 80–100° C. overnight (0.342 g, 39%). 1H NMR (400 MHz, DMSO-d6) 11.49 (br s, 1H), 11.08 (s, 1H), 7.49 (dd, J=6, 3 Hz, 1H), 7.30 (d, J=2.3 Hz, 1H), 7.24 (d, J=3 Hz, 1H), 6.86–7.05 (m, 4H), 6.43 (d, J=3 Hz, 1H), 6.40 (d, J=7 Hz, 1H), 3.76 (s, 3H). MS (electrospray, m/z) 360.0 (M++1), 358.0 (M−−1). HRMS 360.1161 (M++1, calcd for C21H15FN3O2 360.1148). Anal. Calcd for C21H14FN3O2: C, 70.19; H, 3.93; N, 11.69. Found: C, 69.94; H, 3.92; N, 11.59.

reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 2.48 mmol, 0.466 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | (6-fluoro-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.45 mmol, 0.543 g | COC(C(=O)C1=CNC2=CC(=CC=C12)F)=O | C11H8FNO3
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 8.6 mmol, 8.6 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(6-Fluoro-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | FC1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C21H14FN3O2
